US09340556B2
To a red suspension of 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (12.2 g, 43.0 mmol), K2CO3 (23.78 g, 172 mmol) and KI (0.714 g, 4.30 mmol) in N,N-Dimethylformamide (DMF) (200 mL) at r.t. was added 1-(chloromethyl)-4-methoxybenzene (19.26 mL, 142 mmol). The mixture was heated at 90° C. for 4 h. After cooling, the mixture was concentrated and partitioned between water (200 mL) and DCM (200 mL), and extracted with DCM (150 mL) twice. The organic layers were combined, dried and concentrated. The crude product was purified twice through column chromatography eluting with EtOAc/hexanes (0-100%) to afford pure 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (14 g, 20.65 mmol, 48.0% yield) as a white solid. LCMS: (M+H)+: 644.1.

reactant | 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 43.0 mmol, 12.2 g | ClC1=C2C(C(=CN(C2=CC(=C1O)O)CC)C(=O)O)=O | C12H10ClNO5
reactant | K2CO3 | 172 mmol, 23.78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 142 mmol, 19.26 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | N,N-Dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 20.65 mmol, 14 g, 48.0% yield | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C(=O)OCC1=CC=C(C=C1)OC)=O | C36H34ClNO8
